US05114936
In 100 ml of anhydrous THF was dissolved 6.0 g 3-(4-chlorophenyl)-5-(3-chloropropyl)-1,2-benzisoxazol-4(5H)-one under nitrogen atmosphere. The solution was cooled to -5° C. and 840 mg sodium borohydride was added. The reaction mixture was stirred at 0° C. for 45 minutes and then warmed to 10° C. for 20 minutes. After cooling to 0° C., the reaction mixture was quenched with aqueous NH4Cl (saturated) then extracted with ether. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to give 6.0 g of 3-(4-chlorophenyl)-5-(3-chloropropyl)-4-hydroxy-4,5,6,7-tetrahydro-1,2-benzisoxazole as an oil.

reactant | 3-(4-chlorophenyl)-5-(3-chloropropyl)-1,2-benzisoxazol-4(5H)-one | 6.0 g | ClC1=CC=C(C=C1)C1=NOC2=C1C(C(C=C2)CCCCl)=O | C16H13Cl2NO2
reactant | sodium borohydride | 840 mg | [BH4-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(4-chlorophenyl)-5-(3-chloropropyl)-4-hydroxy-4,5,6,7-tetrahydro-1,2-benzisoxazole | 6.0 g | ClC1=CC=C(C=C1)C1=NOC2=C1C(C(CC2)CCCCl)O | C16H17Cl2NO2
